US07476673B2
6-Bromo-1,1-dimethyl-1,2,3,4-tetrahydro-naphthalene (Compound 19)
To a solution of 7-bromo-4,4-dimethyl-3,4-dihydro-2H-naphthalen-1-one (prepared according to the procedures published in Journal of Medicinal Chemistry 1995, 38, 4764-7) (525 mg, 2.08 mmol) in 5 mL of trifluoroacetic acid (TFA) was added triethylsilane (2.41 g, 20.80 mmol). The mixture was then heated at reflux for 8 h. After cooling to room temperature, the reaction was quenched with 20 mL of ice-water mixture, extracted with diethyl ether (3×5 mL), washed with brine (1×5 mL), dried (MgSO4) and concentrated at reduced pressure. Purification by flash chromatography (hexane) afforded the title compound (445 mg, 90% yield) as a light yellow oil:

reactant | 7-bromo-4,4-dimethyl-3,4-dihydro-2H-naphthalen-1-one | BrC1=CC=C2C(CCC(C2=C1)=O)(C)C | C12H13BrO
reactant | triethylsilane | 20.80 mmol, 2.41 g | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 6-Bromo-1,1-dimethyl-1,2,3,4-tetrahydro-naphthalene | 445 mg, 90% yield | BrC=1C=C2CCCC(C2=CC1)(C)C | C12H15Br
